US05919984
dpppO, Ph2PCH2CH2CH2P(O)Ph2
Palladium acetate (10 mg; 4.45×10-2 mmol), dppp (5.00 g; 12.14 mmol), and 1,2-dibromoethane (3.4 g; 18.9 mmol) were dissolved in 1,2-dichloroethane (15 mL). To this solution, aqueous NaOH (20% by weight; 10 mL) was added and the biphasic mixture was vigorously stirred under reflux for 6 hours until the originally yellow mixture turned pale yellow. The organic phase was filtered through a silica column which was then washed with CH2Cl2 /AcOEt (5:3 by volume) until the yellow band was about to come out. The combined organic solutions were evaporated to give a colorless oily residue. The oil was mixed with CH2Cl2 (2 mL) and ether (5 mL), and then treated with pentane (10 mL) and left for 1.5 hours. More pentane (50 ml) was added, and in 2 hours the fluffy white needles of dpppO were separated and dried under vacuum. The yield was 3.80 g (73%). 1H NMR (CDCl3, 20° C.), δ: 1.8 (m, 2H, CH2); 2.2 (m, 2H, CH2); 2.4 (m, 2H, CH2); 7.2-7.7 (m, 20H, Ph). 31P NMR (CDCl3, 20° C.), δ: -17.2 (s, 1P, PPh2); 32.0 (s, 1P, P(O)Ph2).

reactant | dppp | 12.14 mmol, 5.00 g | C=1C=CC(=CC1)P(CCCP(C=2C=CC=CC2)C=3C=CC=CC3)C=4C=CC=CC4 | C27H26P2
reactant | 1,2-dibromoethane | 18.9 mmol, 3.4 g | BrCCBr | C2H4Br2
reactant | NaOH | 10 mL | [OH-].[Na+]
reactant | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
catalyst | Palladium acetate | 4.45×10-2 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | pentane | 50 ml | CCCCC | C5H12
solvent | pentane | 10 mL | CCCCC | C5H12
solvent | ether | 5 mL | CCOCC | C4H10O
product | Ph2PCH2CH2CH2P(O)Ph2 | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCCP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26OP2
